US08431538B2
7-Carbazol-9-ylheptanoic acid ethyl ester (24)
A RB flask fitted with reflux condenser containing carbazole (0.60 g, 3.59 mmol) and sodium hydride (60 wt. % in mineral oil, 0.22 g, 5.38 mmol) was vacuum purged and filled with argon, followed by addition of DMF (16 mL). After stirring at 50° C. for 20 min, ethyl 7-bromo-heptanoate (0.85 g, 3.59 mmol) was added and the mixture stirred at 80° C. overnight. The reaction was quenched by addition of 5% aqueous NH4Cl (75 mL), transferred to a separatory funnel and extracted with ethyl acetate (3×30 mL). The combined organic layers were washed with brine (2×20 L), dried (Na2SO4) and concentrated. Purification by MPCC (0-50% gradient of ethyl acetate in hexane) afforded the title compound (0.77 g, 66%). 1H NMR (300 MHz, CDCl3): 8.15 (d, 2H, J=7.8 Hz), 7.52 (t, 2H, J=7.3 Hz), 7.44 (d, 2H, J=8.1 Hz), 7.28 (t, 2H, J=7.7 Hz), 4.32 (t, 2H, J=7.2 Hz), 4.16 (q, 2H, J=7.1 Hz), 2.30 (t, 2H, J=7.4 Hz), 1.91 (m, 2H), 1.64 (m, 2H), 1.41 (m, 4H), 1.30 (t, 3H, J=7.2 Hz). 13C NMR APT (100 MHz, CDCl3): 173.7 (up), 140.5 (up), 125.6 (down), 122.9 (up), 120.4 (down), 118.8 (down), 108.7 (down), 60.3 (up), 43.0 (up), 34.3 (up), 28.9 (up), 27.0 (up), 24.8 (up), 14.3 (down). ESI-HRMS (m/z): [M+H]+ calcd. for C21H25NO2, 324.1958. found, 324.1957

reactant | carbazole | 3.59 mmol, 0.60 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | sodium hydride | 5.38 mmol, 0.22 g | [H-].[Na+]
reactant | ethyl 7-bromo-heptanoate | 3.59 mmol, 0.85 g | BrCCCCCCC(=O)OCC | C9H17BrO2
product | 7-Carbazol-9-ylheptanoic acid ethyl ester | 0.77 g, 66% | C(C)OC(CCCCCCN1C2=CC=CC=C2C=2C=CC=CC12)=O | C21H25NO2
